* sparx_wpd_le - lumped-element equivalent (Ngspice / SPICE3)
* generated by snp2le
* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
* 
* 
.SUBCKT sparx_wpd_le p1 p2 p3
V1 p1 s1 0
R1 s1 0 50
Gd1_1 0 s1 p1 0 -0.009347181046
Fd1_1 0 s1 V1 -0.4673590523
Gr1_1_1 0 s1 x1_a1 0 -0.2745819854
Gr2_re_1_1 0 s1 x2_re_a1 0 -91470.93741
Gr2_im_1_1 0 s1 x2_im_a1 0 311046.9561
Gr3_re_1_1 0 s1 x3_re_a1 0 39560.84941
Gr3_im_1_1 0 s1 x3_im_a1 0 -7489.299926
Gr4_re_1_1 0 s1 x4_re_a1 0 323779.5938
Gr4_im_1_1 0 s1 x4_im_a1 0 109077.6364
Gd1_2 0 s1 p2 0 0.002631133944
Fd1_2 0 s1 V2 0.1315566972
Gr1_1_2 0 s1 x1_a2 0 0.01066355419
Gr2_re_1_2 0 s1 x2_re_a2 0 -227132.0656
Gr2_im_1_2 0 s1 x2_im_a2 0 264260.8204
Gr3_re_1_2 0 s1 x3_re_a2 0 3610.220384
Gr3_im_1_2 0 s1 x3_im_a2 0 435.3877857
Gr4_re_1_2 0 s1 x4_re_a2 0 -21944.15911
Gr4_im_1_2 0 s1 x4_im_a2 0 -402085.7354
Gd1_3 0 s1 p3 0 0.002626962714
Fd1_3 0 s1 V3 0.1313481357
Gr1_1_3 0 s1 x1_a3 0 0.01165689981
Gr2_re_1_3 0 s1 x2_re_a3 0 -228008.4855
Gr2_im_1_3 0 s1 x2_im_a3 0 263023.1089
Gr3_re_1_3 0 s1 x3_re_a3 0 3375.126252
Gr3_im_1_3 0 s1 x3_im_a3 0 738.6775037
Gr4_re_1_3 0 s1 x4_re_a3 0 -21639.04775
Gr4_im_1_3 0 s1 x4_im_a3 0 -400928.2635
Cx1_a1 x1_a1 0 1.598382404e-12
Gx1_a1 0 x1_a1 p1 0 0.005491639708
Fx1_a1 0 x1_a1 V1 0.2745819854
Rp1_a1 0 x1_a1 1
Cx2_re_a1 x2_re_a1 0 1.068912691e-12
Gx2_re_a1 0 x2_re_a1 p1 0 3.126789104e-08
Fx2_re_a1 0 x2_re_a1 V1 1.563394552e-06
Rp2_re_re_a1 0 x2_re_a1 1
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 2.364294849
Cx2_im_a1 x2_im_a1 0 1.068912691e-12
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -2.364294849
Rp2_im_im_a1 0 x2_im_a1 1
Cx3_re_a1 x3_re_a1 0 1.137731013e-11
Gx3_re_a1 0 x3_re_a1 p1 0 1.844527357e-09
Fx3_re_a1 0 x3_re_a1 V1 9.222636785e-08
Rp3_re_re_a1 0 x3_re_a1 1
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 15.01491607
Cx3_im_a1 x3_im_a1 0 1.137731013e-11
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -15.01491607
Rp3_im_im_a1 0 x3_im_a1 1
Cx4_re_a1 x4_re_a1 0 7.542427599e-13
Gx4_re_a1 0 x4_re_a1 p1 0 6.572332889e-08
Fx4_re_a1 0 x4_re_a1 V1 3.286166445e-06
Rp4_re_re_a1 0 x4_re_a1 1
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 0.7142292945
Cx4_im_a1 x4_im_a1 0 7.542427599e-13
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -0.7142292945
Rp4_im_im_a1 0 x4_im_a1 1
V2 p2 s2 0
R2 s2 0 50
Gd2_1 0 s2 p1 0 0.002631133944
Fd2_1 0 s2 V1 0.1315566972
Gr1_2_1 0 s2 x1_a1 0 0.0362437876
Gr2_re_2_1 0 s2 x2_re_a1 0 -452511.4273
Gr2_im_2_1 0 s2 x2_im_a1 0 526482.4265
Gr3_re_2_1 0 s2 x3_re_a1 0 19502.94451
Gr3_im_2_1 0 s2 x3_im_a1 0 2352.029218
Gr4_re_2_1 0 s2 x4_re_a1 0 -32644.71871
Gr4_im_2_1 0 s2 x4_im_a1 0 -598153.5069
Gd2_2 0 s2 p2 0 0.002063357317
Fd2_2 0 s2 V2 0.1031678658
Gr1_2_2 0 s2 x1_a2 0 -0.8011037045
Gr2_re_2_2 0 s2 x2_re_a2 0 -587527.0485
Gr2_im_2_2 0 s2 x2_im_a2 0 402968.7392
Gr3_re_2_2 0 s2 x3_re_a2 0 -52625.59307
Gr3_im_2_2 0 s2 x3_im_a2 0 101524.776
Gr4_re_2_2 0 s2 x4_re_a2 0 542980.9638
Gr4_im_2_2 0 s2 x4_im_a2 0 187925.6437
Gd2_3 0 s2 p3 0 0.008659268527
Fd2_3 0 s2 V3 0.4329634263
Gr1_2_3 0 s2 x1_a3 0 0.933262117
Gr2_re_2_3 0 s2 x2_re_a3 0 859722.4884
Gr2_im_2_3 0 s2 x2_im_a3 0 -1104154.645
Gr3_re_2_3 0 s2 x3_re_a3 0 72718.33536
Gr3_im_2_3 0 s2 x3_im_a3 0 -118903.8302
Gr4_re_2_3 0 s2 x4_re_a3 0 -1058156.185
Gr4_im_2_3 0 s2 x4_im_a3 0 -405042.2501
Cx1_a2 x1_a2 0 1.598382404e-12
Gx1_a2 0 x1_a2 p2 0 0.01866524234
Fx1_a2 0 x1_a2 V2 0.933262117
Rp1_a2 0 x1_a2 1
Cx2_re_a2 x2_re_a2 0 1.068912691e-12
Gx2_re_a2 0 x2_re_a2 p2 0 6.229449799e-08
Fx2_re_a2 0 x2_re_a2 V2 3.1147249e-06
Rp2_re_re_a2 0 x2_re_a2 1
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 2.364294849
Cx2_im_a2 x2_im_a2 0 1.068912691e-12
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -2.364294849
Rp2_im_im_a2 0 x2_im_a2 1
Cx3_re_a2 x3_re_a2 0 1.137731013e-11
Gx3_re_a2 0 x3_re_a2 p2 0 9.964409611e-09
Fx3_re_a2 0 x3_re_a2 V2 4.982204805e-07
Rp3_re_re_a2 0 x3_re_a2 1
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 15.01491607
Cx3_im_a2 x3_im_a2 0 1.137731013e-11
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -15.01491607
Rp3_im_im_a2 0 x3_im_a2 1
Cx4_re_a2 x4_re_a2 0 7.542427599e-13
Gx4_re_a2 0 x4_re_a2 p2 0 9.777178399e-08
Fx4_re_a2 0 x4_re_a2 V2 4.888589199e-06
Rp4_re_re_a2 0 x4_re_a2 1
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 0.7142292945
Cx4_im_a2 x4_im_a2 0 7.542427599e-13
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -0.7142292945
Rp4_im_im_a2 0 x4_im_a2 1
V3 p3 s3 0
R3 s3 0 50
Gd3_1 0 s3 p1 0 0.002626962714
Fd3_1 0 s3 V1 0.1313481357
Gr1_3_1 0 s3 x1_a1 0 0.03962001722
Gr2_re_3_1 0 s3 x2_re_a1 0 -454257.5041
Gr2_im_3_1 0 s3 x2_im_a1 0 524016.5545
Gr3_re_3_1 0 s3 x3_re_a1 0 18232.93124
Gr3_im_3_1 0 s3 x3_im_a1 0 3990.445135
Gr4_re_3_1 0 s3 x4_re_a1 0 -32190.82687
Gr4_im_3_1 0 s3 x4_im_a1 0 -596431.6208
Gd3_2 0 s3 p2 0 0.008659268527
Fd3_2 0 s3 V2 0.4329634263
Gr1_3_2 0 s3 x1_a2 0 0.933262117
Gr2_re_3_2 0 s3 x2_re_a2 0 859722.4884
Gr2_im_3_2 0 s3 x2_im_a2 0 -1104154.645
Gr3_re_3_2 0 s3 x3_re_a2 0 72718.33536
Gr3_im_3_2 0 s3 x3_im_a2 0 -118903.8302
Gr4_re_3_2 0 s3 x4_re_a2 0 -1058156.185
Gr4_im_3_2 0 s3 x4_im_a2 0 -405042.2501
Gd3_3 0 s3 p3 0 0.002142044281
Fd3_3 0 s3 V3 0.107102214
Gr1_3_3 0 s3 x1_a3 0 -0.8003058418
Gr2_re_3_3 0 s3 x2_re_a3 0 -589538.7096
Gr2_im_3_3 0 s3 x2_im_a3 0 399490.3959
Gr3_re_3_3 0 s3 x3_re_a3 0 -53155.94381
Gr3_im_3_3 0 s3 x3_im_a3 0 102147.4292
Gr4_re_3_3 0 s3 x4_re_a3 0 541311.8689
Gr4_im_3_3 0 s3 x4_im_a3 0 188893.0906
Cx1_a3 x1_a3 0 1.598382404e-12
Gx1_a3 0 x1_a3 p3 0 0.01866524234
Fx1_a3 0 x1_a3 V3 0.933262117
Rp1_a3 0 x1_a3 1
Cx2_re_a3 x2_re_a3 0 1.068912691e-12
Gx2_re_a3 0 x2_re_a3 p3 0 6.229449799e-08
Fx2_re_a3 0 x2_re_a3 V3 3.1147249e-06
Rp2_re_re_a3 0 x2_re_a3 1
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 2.364294849
Cx2_im_a3 x2_im_a3 0 1.068912691e-12
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -2.364294849
Rp2_im_im_a3 0 x2_im_a3 1
Cx3_re_a3 x3_re_a3 0 1.137731013e-11
Gx3_re_a3 0 x3_re_a3 p3 0 9.964409611e-09
Fx3_re_a3 0 x3_re_a3 V3 4.982204805e-07
Rp3_re_re_a3 0 x3_re_a3 1
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 15.01491607
Cx3_im_a3 x3_im_a3 0 1.137731013e-11
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -15.01491607
Rp3_im_im_a3 0 x3_im_a3 1
Cx4_re_a3 x4_re_a3 0 7.542427599e-13
Gx4_re_a3 0 x4_re_a3 p3 0 9.777178399e-08
Fx4_re_a3 0 x4_re_a3 V3 4.888589199e-06
Rp4_re_re_a3 0 x4_re_a3 1
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 0.7142292945
Cx4_im_a3 x4_im_a3 0 7.542427599e-13
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -0.7142292945
Rp4_im_im_a3 0 x4_im_a3 1
.ENDS sparx_wpd_le
